US06730668B2
Preparation of morpholine-4-carboxylic acid 6-(4-fluorophenyl)-5-oxo-7-(2-phenoxypyrimidin-4-yl)-2,3-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-2-yl ester (43);
A solution of morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-2-(2-phenoxypyrimidine-4-carbonyl)-pyrazolidin-4-yl ester, 42, (154 mg, 0.287 mmol) in dimethylformamide (3 mL) is added dropwise to a −10° C. suspension of sodium hydride (16.4 mg of a 60% dispersion in mineral oil, 0.410 mmol) in tetrahydrofuran (3 mL). After 1 hour at −10° C., the reaction was warmed to 0° C. for 2 hours. The orange-colored solution is then quenched by slowly adding saturated NH4Cl (400 μL). The cooling bath is removed, and the solution allowed to warm to room temperature. The reaction mixture is concentrated in vacuo and the resulting residue is dissolved in THF (25 mL) and filtered through a pad of Celite. The filtrate is concentrated in vacuo and the residue purified by Prep HPLC to afford 47 mg (32% yield) of the desired product as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.46 (d, J=4.9 Hz, 1H), 7.47-7.18 (m, 9H), 7.08 (t, J=8.7 Hz, 2H), 6.89 (d, J=4.9 Hz, 1H), 5.66 (m, 1H), 4.16 (m, 2H), 4.02 (d, J=12.9 Hz, 1H), 3.87 (dd, J=12.9, 5.1 Hz, 1H), 3.79-3.30 (m, 8H); HRMS m/z calcd for C27H25FN5O5 (MH+) 518.1840, found 518.1815.

reactant | morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-2-(2-phenoxypyrimidine-4-carbonyl)-pyrazolidin-4-yl ester | FC1=CC=C(C=C1)CC(=O)N1N(CC(C1)OC(=O)N1CCOCC1)C(=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C27H26FN5O6
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | morpholine-4-carboxylic acid 6-(4-fluorophenyl)-5-oxo-7-(2-phenoxypyrimidin-4-yl)-2,3-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-2-yl ester | 47 mg, 32% yield | FC1=CC=C(C=C1)C=1C(N2N(C1C1=NC(=NC=C1)OC1=CC=CC=C1)CC(C2)OC(=O)N2CCOCC2)=O | C27H24FN5O5
